US08535655B2
c) 3-oxo-3-(2-phenyl-1,3-dioxan-5-yloxy)propyl 2-propylpentanoate
3-(2-propylpentanoyloxy)propanoic acid (2.05 g, 9.5 mmol) was dissolved in anhydrous CH2Cl2 (200 ml) under argon. 1,3-O-benzylideneglycerol (2.50 g, 13.67 mmol triethylamine (4.04 g, 40.0 mmol) and O-benzotriazol-1-yl-N,N, N′,N′-trimethyluronium hexafluorophosphate (4.2 g, 11.0 mmol) were added successively. The reaction mixture was stirred under argon for 72 h. The reaction mixture was washed with saturated NaHCO3 solution (1×90 ml), water (1×90 ml) and dried over Na2SO4. The organic solvent was removed under reduced pressure giving a pale, pink solid (2.99 g, 7.9 mmol, 83%).

reactant | 3-(2-propylpentanoyloxy)propanoic acid | 9.5 mmol, 2.05 g | C(CC)C(C(=O)OCCC(=O)O)CCC | C11H20O4
reactant | 1,3-O-benzylideneglycerol | C1C(COC(O1)C2=CC=CC=C2)O | C10H12O3
reactant | triethylamine | 13.67 mmol, 2.50 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-oxo-3-(2-phenyl-1,3-dioxan-5-yloxy)propyl 2-propylpentanoate | 7.9 mmol, 2.99 g, 83% | C(CC)C(C(=O)OCCC(OC1COC(OC1)C1=CC=CC=C1)=O)CCC | C21H30O6
